OpenCircuit independent review hard-bound probe
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8755874581020323840
* Revision: Nov. 2024
.model OC_UMW-YOUTAI-SEMICONDUCTOR-CO-LTD_AO4406A VDMOS( VTO=1.5000000000e0 KP=2.0000000000e2 THETA=0.0000000000e0 LAMBDA=3.0000000000e-3 RD=5.5000000000e-3 RS=2.0000000000e-3 RG=1.0000000000e-4 RDS=1e9 CGS=8.7300000000e-10 CGDMAX=8.7000000000e-11 CGDMIN=8.7000000000e-11 CJO=5.2000000000e-11 IS=1.0000000000e-12 N=1.5000000000e0 RB=2.0000000000e-3)
.temp 25
M1 d g 0 OC_UMW-YOUTAI-SEMICONDUCTOR-CO-LTD_AO4406A
ID 0 d DC 8.000000000000e+0
VG g 0 DC 4.500000000000e+0
.op
.end
