OpenCircuit factory test: IRLR7843TR-UMW RDS(on)
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8602995614393384960
* Revision: Not stated in the public PDF
.model OC_UMW-YOUTAI-SEMICONDUCTOR-CO-LTD_IRLR7843TR-UMW VDMOS( VTO=2.5000000000e0 KP=7.6923076923e2 THETA=0.0000000000e0 LAMBDA=3.0000000000e-3 RD=1.4300000000e-3 RS=5.2000000000e-4 RG=1.0000000000e-4 RDS=1e9 CGS=3.9500000000e-9 CGDMAX=4.3000000000e-10 CGDMIN=4.3000000000e-10 CJO=5.1000000000e-10 IS=1.0000000000e-12 N=1.5000000000e0 RB=5.2000000000e-4)

.temp 25
M1 d1 g1 0 OC_UMW-YOUTAI-SEMICONDUCTOR-CO-LTD_IRLR7843TR-UMW
ID1 0 d1 DC 1.5000000000e1
VG1 g1 0 DC 1.0000000000e1
.op
.end
