OpenCircuit independent review hard-bound probe
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8586178050120040448
* Revision: Document Number 72079, s-22199 Rev. A, 25-Nov-02
.model OC_VISHAY-INTERTECH_SI2343CDS-T1-GE3 VDMOS( pchan VTO=-3.0000000000e0 KP=4.6511627907e1 THETA=0.0000000000e0 LAMBDA=3.0000000000e-3 RD=2.3650000000e-2 RS=8.6000000000e-3 RG=1.0000000000e-4 RDS=1e9 CGS=4.3500000000e-10 CGDMAX=1.0500000000e-10 CGDMIN=1.0500000000e-10 CJO=2.6000000000e-11 IS=1.0000000000e-12 N=1.5000000000e0 RB=8.6000000000e-3)
.temp 25
M1 d g 0 OC_VISHAY-INTERTECH_SI2343CDS-T1-GE3
ID d 0 DC 3.100000000000e+0
VG g 0 DC -4.500000000000e+0
.op
.end
